US05348962
2-Bromopyridine (1.1 ml, 11.5 mmol) and potassium carbonate (2.76 g, 20.0retool) were added to a solution of methyl 3-hydroxyphenylacetate (1.66 g, 9.99 mmol) in anhydrous pyridine (12 ml). The vigorously stirred reaction mixture was heated to 90° C. under a nitrogen atmosphere and then copper (II) oxide (1.99 g, 25.0 mmol) was added under a positive nitrogen flush. The reaction mixture was heated under reflux for 16 hours, allowed to cool and diluted with dichloromethane. The mixture was filtered through hyflo and concentrated in vacuo. The residue was purified by flash chromatography on silica eluting with 1:3 ethyl acetate/petrol (60°-80°) then 1:2 ethyl acetate/petrol (60°-80°) to give methyl [3-(2-pyridyloxy)phenyl]acetate as a pale straw-coloured oil (1.85 g, 78%); δH (360MHz, CDCl3) 3.63 (2H, s, CH2), 3.69 (3H, s, COOCH3), 6.90 (1H, d, J 8 Hz, ArH), 6.99 (1H, m, ArH), 7.06 (2H, m, ArH), 7.11 (1H, d, J 8 Hz, ArH), 7.34 (1H, t, J 8 Hz, 5'-H), 7.67 (1H, m, ArH), 8.19 (1H, m, 6"-H), m/z 243 (M+).

reactant | 2-Bromopyridine | 11.5 mmol, 1.1 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-hydroxyphenylacetate | 9.99 mmol, 1.66 g | OC=1C=C(C=CC1)CC(=O)OC | C9H10O3
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
catalyst | copper (II) oxide | 25.0 mmol, 1.99 g | [Cu]=O
product | methyl [3-(2-pyridyloxy)phenyl]acetate | 1.85 g, 78% | N1=C(C=CC=C1)OC=1C=C(C=CC1)CC(=O)OC | C14H13NO3
